US07482484B2
Step f: 5-hexyl-6-methoxyindan-1-one
18.5 g (69.9 mmol) of 3-(3-hexyl-4-methoxyphenyl)propanoic acid dissolved in 100 ml of xylene are added to a mixture of 100 g of polyphosphoric acid and 100 ml of xylene heated to 80° C. The mixture is then heated at 135° C. for 1 hour 30 minutes. The mixture is poured into water and extracted with ethyl acetate. The organic phase is washed with sodium bicarbonate solution. The solvents of the organic phase are dried (Na2SO4) and evaporated off, and the residue is purified by flash chromatography (9 g; 52%).

reactant | 3-(3-hexyl-4-methoxyphenyl)propanoic acid | 69.9 mmol, 18.5 g | C(CCCCC)C=1C=C(C=CC1OC)CCC(=O)O | C16H24O3
reactant | water | O | H2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-hexyl-6-methoxyindan-1-one | C(CCCCC)C=1C=C2CCC(C2=CC1OC)=O | C16H22O2
